US08614209B2
A solution of (S)-(−)-1-Boc-2-pyrrolidine methanol (0.267 g, 1.33 mmol), phenol (0.38 g, 4.02 mmol) and triphenylphosphine (0.71 g, 2.71 mmol) in DCM (5 mL) was cooled in an ice-bath and a solution of diisopropyl azodicarboxylate (0.55 g, 2.71 mmol) in toluene (3 mL) was added. The ice-bath was removed and the reaction mixture was stirred at room temperature over the weekend. The mixture was diluted with ether and washed with sodium hydroxide (3 M), then brine, dried over sodium sulfate and evaporated. The resultant solid was suspended in ethyl acetate and cyclohexane and the resultant white crystalline solid was removed by filtration. The filtrate was evaporated and the crude material was purified by column chromatography using a 10 g Si II cartridge eluting with 10% ethyl acetate in cyclohexane to afford (S)-2-phenoxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester as a clear oil (0.22 g).

reactant | (S)-(−)-1-Boc-2-pyrrolidine methanol | 1.33 mmol, 0.267 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)CO | C10H19NO3
reactant | phenol | 4.02 mmol, 0.38 g | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 2.71 mmol, 0.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.71 mmol, 0.55 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-phenoxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.22 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=CC=C1 | C16H23NO3
